US05270309
Treatment of 3-nitrobenzaldehyde (8.2 g) with propyltriphenyl phosphonium bromide (25 g) and n-butyllithium in hexane (64.9 mmol), as described in Example 1a, gave 3-(2-butenyl)nitrobenzene (9.3 g), δ (360 MHz, CDCl3) 1.1 (3H, t, CH3), 2.4 (2H, m, CH2CH3). 5.8 (1H, m, =CH--CH2), 6.3 (1H, m, CH=CH2), 7.2 to 8.0 (4H, m, ArH). Treatment of the above 3-(2-butenyl)nitrobenzene (9.3 g) with hydrogen and palladium on carbon (10%, 0.93 g) as described in Example 1a, gave 3-butylaniline (7.0 g), δ (60 MHz, CDCl2) 0.9 (3H, t, CH3), 1.4 (4H, m, CH2CH2CH3), 2.5 (2H, t, ARCH2), 3.4 (2H, bs, NH2 ) and 6.2 to 7.0 (4H, m, ArH).

reactant | 3-(2-butenyl)nitrobenzene | 9.3 g | C(C=CC)C=1C=C(C=CC1)[N+](=O)[O-] | C10H11NO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.93 g | [Pd] | Pd
product | 3-butylaniline | 7.0 g | C(CCC)C=1C=C(N)C=CC1 | C10H15N
